.subckt H11F1M_AB A C R1 R2
.param  Vt=100m
dled1 A 6 LED1
VT 6 C 0
dled2 A C LED2
B 0 T i=(165+(0.07229* ((2*i(Vt))**(-1.5)))) Rpar=1 Cpar=2.u
BRES R1 R2 i=if(abs(v(R1,R2))>Vt  ,
+  sgn(v(R1,R2))/V(T)/2*Vt ,
+  V(R1,R2)/V(T)/Vt*(Vt-0.5*abs(V(R1,R2)))) Cpar=15p Rpar=300Meg
.model Led1  d(is=0.5e-20 ) 
.model Led2  d(is=0.5e-20 cjo=18p)
.ends  H11F1M_AB
